US07700634B2
To a cooled solution (ice/methanol bath) of 3-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-isothiazole-4,5-dicarboxylic acid diethyl ester (400 mg, 0.85 mmol) in tetrahydrofuran (20 ml) was added lithium aluminium hydride (1M solution in THF; 1.91 ml, 1.91 mmol) and the reaction mixture stirred for 20 minutes. To the reaction mixture was added excess sodium sulfate decahydrate and the reaction stirred vigorously for 1.5 hours. The resulting mixture was filtered through a pad of dicalite, washing with diethyl ether. The filtrate was concentrated in vacuo and the resulting oil purified by flash column chromatography to afford 3-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-4-hydroxymethyl-isothiazol-5-yl]-methanol (141 mg, 0.3 mmol). To a solution of 3-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-4-hydroxymethyl-isothiazol-5-yl]-methanol (194 mg, 0.5 mmol) in dichloromethane (10 ml) was added methanesulfonyl chloride (0.182 ml, 1.16 mmol) followed by triethylamine (0.175 ml, 1.26 mmol) and the reaction mixture stirred for 45 minutes. A further portion of methanesulfonyl chloride (0.07 ml, 0.44 mmol) and triethylamine (0.15 ml, 1 mmol) was added and the reaction stirred for a further 2 hours. The reaction mixture was poured into a separating funnel, washed with 5% aqueous sodium carbonate solution, then brine, dried over magnesium sulfate and the solvent evaporated in vacuo. The resulting residue was purified by flash column chromatography using 33%-100% (v/v) dichloromethane in heptane and then diethyl ether to afford methanesulfonic acid {4-chloromethyl-3-[1-(cyclohexyl)methyl-7-methoxy-1H-indol-3-yl]-isothiazol-5-yl}methyl ester (113 mg, 0.23 mmol).

reactant | 3-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-isothiazole-4,5-dicarboxylic acid diethyl ester | 0.85 mmol, 400 mg | C(C)OC(=O)C=1C(=NSC1C(=O)OCC)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1 | C25H30N2O5S
reactant | lithium aluminium hydride | 1.91 mmol, 1M, 1.91 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | methanol | 0.3 mmol, 141 mg | CO | CH4O
reactant | methanol | 0.5 mmol, 194 mg | CO | CH4O
reactant | methanesulfonyl chloride | 1.16 mmol, 0.182 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.26 mmol, 0.175 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.44 mmol, 0.07 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | methanesulfonic acid {4-chloromethyl-3-[1-(cyclohexyl)methyl-7-methoxy-1H-indol-3-yl]-isothiazol-5-yl}methyl ester | 0.23 mmol, 113 mg | ClCC=1C(=NSC1COS(=O)(=O)C)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1 | C22H27ClN2O4S2
